* NMOS-Only Cross-Coupled LC-DCO + LDO Tail
* IHP SG13G2 130nm SiGe BiCMOS — Phase 3 Final (NMOS topology)
*
* Topology:
*   - NMOS-only cross-coupled pair (M1/M2, source=vs)
*   - L_rfc (200nH) + R_dc (10Ω): DC bias path from VDD to tank center
*     → V(outp/outn)_DC ≈ VDD = 0.9V (L_rfc is DC short, hi-Z at 2.4GHz)
*     → X_rfc @ 2.4GHz = 3.0kΩ >> Rp=970Ω → acceptable loading
*   - LDO NMOS tail: regulates V(vs) = V_ref (programmable)
*     → vs ≈ +0.3~0.7V → NMOS M_tail Vds > 0 → saturation ✓
*
* L=4nH tank: compensates halved gm from removing PMOS pair

.lib "/home/whqkrel/tools/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.model SW_IDEAL SW(Ron=0.1 Roff=1Meg Vt=0.5 Vh=0.1)

.include '/home/whqkrel/rfic_project/circuits/blocks/cross_coupled_pair_nmos.cir'
.include '/home/whqkrel/rfic_project/circuits/blocks/cap_bank_msb.cir'
.include '/home/whqkrel/rfic_project/circuits/blocks/cap_bank_lsb.cir'
.include '/home/whqkrel/rfic_project/circuits/blocks/ptat_ref.cir'
.include '/home/whqkrel/rfic_project/circuits/blocks/ldo_tail_nmos.cir'

* ── Supply ────────────────────────────────────────────────────────────────
VDD vdd 0 DC 0.9

* ── MSB=31, LSB=24 → 2.4GHz target point ────────────────────────────────
* MSB=0,LSB=0: minimal cap bank → f_max with C_F=2.19pF ≈ 2.4GHz
VMSB4 msb4 0 DC 0
VMSB3 msb3 0 DC 0
VMSB2 msb2 0 DC 0
VMSB1 msb1 0 DC 0
VMSB0 msb0 0 DC 0
VLSB4 lsb4 0 DC 0
VLSB3 lsb3 0 DC 0
VLSB2 lsb2 0 DC 0
VLSB1 lsb1 0 DC 0
VLSB0 lsb0 0 DC 0

* ── LC Tank (L=4nH total, C_F=2.19pF each, symmetric differential) ────────
* Differential inductor split symmetrically: L/2=2nH each side, Rs/2=1.25Ω each
* With mid_L = VDD (AC gnd via V_rfc): outp sees 2nH||1.25Ω, outn sees 2nH||1.25Ω ✓
* f = 1/(2π√(L/2 × C_F)) = 1/(2π√(2nH × 2.19pF)) = 2.40 GHz ✓
L1a   n_op  mid_L  2.00n
R_Ls_a outp n_op   1.25
L1b   n_on  mid_L  2.00n
R_Ls_b outn n_on   1.25
* C_F reduced from 2.19p to 1.975p to compensate MOSFET parasitics (~215fF)
C1    outp  0  1.975p
C2    outn  0  1.975p

* Inductor substrate pi-model (scaled for L=4nH geometry)
C_ox1 outp sub1 80f
C_ox2 outn sub2 80f
R_sub1 sub1 0 180
C_sub1 sub1 0 50f
R_sub2 sub2 0 180
C_sub2 sub2 0 50f

* ── Programmable capacitor banks ─────────────────────────────────────────
* MSB/LSB banks are differential, binary weighted, and driven by the code
* sources above. The fixed C1/C2 terms keep the previously verified 2.4027GHz
* nominal operating point; banks add tuning capacitance for lower frequencies.
X_cap_msb outp outn msb4 msb3 msb2 msb1 msb0 cap_bank_msb
X_cap_lsb outp outn lsb4 lsb3 lsb2 lsb1 lsb0 cap_bank_lsb

* ── RFC: DC bias to tank center ────────────────────────────────────────────
* V_rfc (ideal): V(mid_L) = VDD at DC
* For differential signals: mid_L = virtual ground → VDD tie doesn't affect diff oscillation ✓
* Simple and avoids RFC-tank resonance issues
V_rfc  mid_L  vdd  DC 0

* ── NMOS-only negative-gm core ────────────────────────────────────────────
X_gm  outp outn vs  cross_coupled_pair_nmos

* ── LDO NMOS tail (voltage-mode: regulates V(vs) = V_ref) ─────────────────
* V_ref at MSB=31,LSB=24: 0.300 + 31×9.68m + 24×4.5m = 0.708V
* I_tail ≈ 500uA (M_tail W=200u, L=500n, Vgs=V_ctrl)
X_tail vs vdd msb4 msb3 msb2 msb1 msb0 lsb4 lsb3 lsb2 lsb1 lsb0 ldo_tail_nmos

* ── Initial conditions ────────────────────────────────────────────────────
* V(vs) starts at V_ref target; V(outp/outn) near VDD
* V(X_tail.v_ctrl)=0.37: M_tail NMOS pre-charged → I_tail≈300uA at startup
* Without this, v_ctrl starts at 0V → M_tail off → vs floats to VDD → no oscillation
.ic V(outp)=0.850 V(outn)=0.650 V(vs)=0.470 V(X_tail.v_ctrl)=0.37

* ── Transient simulation ──────────────────────────────────────────────────
.tran 2p 300n uic

.control
run

echo =============================================
echo   NMOS-Only LC-DCO + LDO Tail Results
echo =============================================

meas tran v_max max v(outp) from=150n to=300n
meas tran v_min min v(outp) from=150n to=300n
let v_swing = v_max - v_min
echo V_swing [V]:
print v_swing

meas tran i_vdd avg i(VDD) from=150n to=300n
let p_dc_uW = -i_vdd * 0.9 * 1e6
echo P_dc [uW]:
print p_dc_uW

meas tran vs_avg avg v(vs) from=150n to=300n
echo V(vs) avg [V]:
print vs_avg

wrdata /home/whqkrel/rfic_project/results/lc_dco_nmos_data.csv v(outp) v(outn) v(vs)
echo Waveform saved.

quit
.endc

.end
