cat > ~/rfic_project/circuits/nmos_dc.cir << 'EOF'
* IHP SG13G2 NMOS DC Characterization

* Include IHP SG13G2 MOSFET models
.lib "/home/whqkrel/tools/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

Vgs gate 0 DC 0
Vds drain 0 DC 0.6

XM1 drain gate 0 0 sg13_lv_nmos W=1u L=130n

.dc Vgs 0 1.2 0.01

.control
run
wrdata /home/whqkrel/rfic_project/results/nmos_dc.csv i(Vds)
quit
.endc

.end